US07262023B2
A solution of 8.7 g of 11β-fluoro-7α-methyl-estr-4-ene-3,17-dione in 148 ml of tetrahydrofuran was mixed drop by drop at 0° C. with 29.5 ml of 1 M lithium aluminium tri-tert-butoxyhydride in tetrahydrofuran and stirred for 5.5 hours at 0° C. Then, dilute sulfuric acid was added at 0° C., and the reaction solution was added to ice water, extracted three times with ethyl acetate, washed neutral, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 5.8 g 11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one with a melting point of 143-144° C. was obtained. [α]D=+89.9° (CHCl3).

reactant | 11β-fluoro-7α-methyl-estr-4-ene-3,17-dione | 8.7 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H25FO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 148 ml | O1CCCC1 | C4H8O
product | 11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one | 5.8 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)C)=O | C19H27FO2
